US07585880B2
2-chloro-5-methyl-4-phenyl-1,3-oxazole
To a suspension of 5-methyl-4-phenyl-1,3-oxazol-2(3H)-one (430 mg, 2.45 mmol) in phosphorus oxychloride (2.36 g, 14.7 mmol) was added pyridine (194 mg, 2.45 mmol) and the mixture was stirred at 120° C. for 2 hr. The reaction mixture was diluted with acetonitrile and added dropwise to water (about 30° C.). The organic materials were extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=7:3) to give the title compound (233 mg, yield 49%) as a yellow oil.

reactant | 5-methyl-4-phenyl-1,3-oxazol-2(3H)-one | 2.45 mmol, 430 mg | CC1=C(NC(O1)=O)C1=CC=CC=C1 | C10H9NO2
reactant | phosphorus oxychloride | 14.7 mmol, 2.36 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 2.45 mmol, 194 mg | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-chloro-5-methyl-4-phenyl-1,3-oxazole | 233 mg, yield 49% | ClC=1OC(=C(N1)C1=CC=CC=C1)C | C10H8ClNO
